### PR TITLE
WIP on projectivity branch

### PR DESCRIPTION
**Pull request by jarlg**
Draft addressing the PR comments, in particular this one: https://github.com/HoTT/HoTT/pull/1393#discussion_r483177045

I've deduced `equiv_isconnmap_merely` (now renamed to `equiv_merely_issurjection` in `Truncations.Core`) from the general statements alluded to by MIke, found in `Modalities.ReflectiveSubuniverses`, if I understood correctly. Univalence gave me a quick proof of `equiv_forall_isconnmap_pr1` for now, but we should try to avoid it.

### CODE REVIEW

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 1]
```diff
@@ -70,6 +78,55 @@ Definition equiv_path_TypeO@{i j} {fs : Funext} O (T T' : Type_ O)
...
 
+(** ** Properties of Subuniverses *)
+
+(** A map is O-local if all its fibers are. *)
+Class MapIn (O : Subuniverse) {A B : Type} (f : A -> B)
+  := inO_hfiber_ino_map : forall (b:B), In O (hfiber f b).
+
+Global Existing Instance inO_hfiber_ino_map.
+
+Section Subuniverse.
```
Comment (jarlg) [inline theories/Modalities/ReflectiveSubuniverse.v:89]: Added this section and moved `mapinO_pr1` here (as needed), as well as some other results (not needed) to show that many results can just be copied here to generalise to the (non-reflective) subuniverse case.

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 2]
```diff
@@ -1210,6 +1267,16 @@ Section ConnectedTypes.
   : IsConnected O A -> IsConnected O B
     := isconnected_equiv A f.
 
+  (** The O-connected types form a subuniverse. *)
+  Theorem subuniverse_connected : Subuniverse.
+  Proof.
+    econstructor. Unshelve.
```
Comment (jarlg) [inline theories/Modalities/ReflectiveSubuniverse.v]: Found a better way to do this: `constructor 1 with (IsConnected O).`

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 3]
```diff
@@ -1457,6 +1480,14 @@ Class IsConnMap (O : ReflectiveSubuniverse@{i})
 
 Global Existing Instance isconnected_hfiber_conn_map.
 
+Proposition equiv_forall_isconnmap_pr1 `{Funext} (O : ReflectiveSubuniverse) {A : Type} (B : A -> Type)
+  : (forall a, IsConnected O (B a)) <~> IsConnMap O (@pr1 A B).
+Proof.
+  apply equiv_functor_forall_id; intro a.
+  pose (S := subuniverse_connected O).
```
Comment (jarlg) [inline theories/Modalities/ReflectiveSubuniverse.v]: Sorry, should have removed this line before committing.

File: theories/Projective.v [hunk 4]
```diff
@@ -0,0 +1,124 @@
...
+  := forall A B : Type, forall f : X -> B, forall p : A -> B,
+        IsSurjection p -> merely (exists s : X -> A, p o s == f).
+
+(** A type X is projective if and only if surjections into X merely split. *)
+Proposition iff_isprojective_surjections_split (X : Type)
+  : IsProjective X <->
+    (forall (Y : Type), forall (p : Y -> X),
+          IsSurjection p -> merely (exists s : X -> Y, p o s == idmap)).
+Proof.
+  econstructor.
```
Comment (jdchristensen) [inline theories/Projective.v]: `split` might make it clearer to the reader what is happening.

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 5]
```diff
@@ -70,6 +78,55 @@ Definition equiv_path_TypeO@{i j} {fs : Funext} O (T T' : Type_ O)
...
+                          (equiv_hfiber_homotopic f g p b)).
+  Defined.
+
+  (** The projection from a family of local types is local. *)
+  Global Instance mapinO_pr1 {A : Type} {B : A -> Type}
+         `{forall a, In O (B a)}
+  : MapIn O (@pr1 A B).
+  Proof.
+    intros a.
+    refine (inO_equiv_inO (B a) (hfiber_fibration a B)).
```
Comment (jdchristensen) [inline theories/Modalities/ReflectiveSubuniverse.v]:
```suggestion
    exact (inO_equiv_inO (B a) (hfiber_fibration a B)).
```

File: theories/Modalities/ReflectiveSubuniverse.v [hunk 6]
```diff
@@ -70,6 +78,55 @@ Definition equiv_path_TypeO@{i j} {fs : Funext} O (T T' : Type_ O)
...
+  Defined.
+
+  Lemma equiv_forall_inO_fiber_pr1 `{Funext} {A : Type} (B : A -> Type)
+    : (forall a, In O (B a)) <~> MapIn O (@pr1 A B).
+  Proof.
+    unfold MapIn; apply equiv_iff_hprop.
+    - intro f; apply mapinO_pr1.
+    - apply functor_forall_id; intros a inO.
+      srapply inO_equiv_inO'.
+      exact (hfiber_fibration a B)^-1%equiv.
```
Comment (jdchristensen) [inline theories/Modalities/ReflectiveSubuniverse.v]: The proof can be simplified to:
```coq
unfold MapIn.
apply equiv_functor_forall_id; intro a.
apply inO_equiv_inO''.
apply hfiber_fibration.
```

File: theories/Modalities/ReflectiveSubuniverse.v (hunk 2 above)
Comment (jdchristensen) [reply theories/Modalities/ReflectiveSubuniverse.v]: Better:  `rapply (Build_Subuniverse (IsConnected O))` which also handles the hprop step.

File: theories/Modalities/ReflectiveSubuniverse.v (hunk 3 above)
Comment (jdchristensen) [reply theories/Modalities/ReflectiveSubuniverse.v]: This whole proof can just be replaced with `apply (equiv_forall_inO_fiber_pr1 (subuniverse_connected O))`.  No need to essentially reprove that lemma!

Comment (jdchristensen) [reply theories/Modalities/ReflectiveSubuniverse.v]: Note that `IsConnected O X` is definitionally equal to `In (subuniverse_connected O) X`.

**Comment by jarlg** [comment]
I just noticed `Sep O` denotes the subuniverse of separated types for a subuniverse `O`. Correspondingly, should `subuniverse_connected` be renamed to `Con`, so that `Con O` denotes the connected types for a rsu `O`?

File: theories/Projective.v (hunk 4 above)
Comment (jarlg) [reply theories/Projective.v]: Yep, agree!

Comment (jdchristensen) [reply theories/Projective.v]: I'm not sure it's worth removing Funext just from this result, since it could be done for lots of them.  Not sure how best to proceed.

**Review by jdchristensen — COMMENTED** [review]
Are there still more things from the other PR conversation to address?

**Comment by jdchristensen** [comment]
Not sure why some of my comments are appearing twice.  I only submitted them once...

**Comment by jdchristensen** [comment]
Maybe `Conn O` would be best?

File: theories/Modalities/ReflectiveSubuniverse.v (hunk 2 above)
Comment (jarlg) [reply theories/Modalities/ReflectiveSubuniverse.v]: Very nice, thanks!

File: theories/Modalities/ReflectiveSubuniverse.v (hunk 3 above)
Comment (jarlg) [reply theories/Modalities/ReflectiveSubuniverse.v]: That's great, thanks!

**Comment by jarlg** [comment]
Yeah, it should be `Conn O`. Pushing these changes now, then the only remaining comment to address is to add a partial solution to exercise 7.9.
